US04014904
4 drops of concentrated sulfuric acid was added to a solution of 22.5 parts of 2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran-5-yl methylaminosulfonate in 200 parts of methanol. The mixture was subsequently boiled for 30 minutes under reflux, and then cooled. The mixture was neutralized with triethylamine and concentrated to dryness in vacuo. Treatment of the viscous residue with a mixture of ether and n-hexane gave crystals of 2,3-dihydro-3,3-dimethyl-2-methoxybenzofuran -5-yl methylaminosulfonate; melting point: 89° to 91°C.

reactant | 2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran-5-yl methylaminosulfonate | CNS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H15NO5S
reactant | methanol | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3-dihydro-3,3-dimethyl-2-methoxybenzofuran -5-yl methylaminosulfonate | CNS(=O)(=O)OC=1C=CC2=C(C(C(O2)OC)(C)C)C1 | C12H17NO5S
